US04145432
A mixture of diethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (1.1651 g), N,N-dimethyltrimethylenediamine (306.6 mg) and p-toluenesulfonic acid (catalytic amount) in dried benzene (20 ml) was refluxed under azeotropic dehydration for 4.5 hours. The resultant solution was washed with water and dried. The solvent was removed from the solution to give brown oil (1.4748 g) of diethyl 2-methyl-4-(2-nitrophenyl)-6-[3-(N,N-dimethylamino)propyl]iminomethyl-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | diethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 1.1651 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C19H20N2O7
reactant | N,N-dimethyltrimethylenediamine | 306.6 mg | CN(CCCN)C | C5H14N2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | diethyl 2-methyl-4-(2-nitrophenyl)-6-[3-(N,N-dimethylamino)propyl]iminomethyl-1,4-dihydropyridine-3,5-dicarboxylate | 1.4748 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=NCCCN(C)C | C24H32N4O6
